US04061637
The 3-methyl-4-phenyl-5-β-chloroethyl-4-thiazoline-2-thione is prepared in the following manner: A solution of 33 g of 1-benzoyl-1-bromo-3-chloropropane in 150 cc of absolute alcohol is added slowly to a suspension of 20 g of methyl ammonium N-methyldithiocarbamate in 150 cc of absolute alcohol. The mixture is agitated for 2 hours at ambient temperature and the solvent is then evaporated under reduced pressure. The residue is redissolved in chloroform, washed with water and the separated organic phase is dried over Na2SO4 and then evaporated to dryness.

reactant | 1-benzoyl-1-bromo-3-chloropropane | 33 g | C(C1=CC=CC=C1)(=O)C(CCCl)Br | C10H10BrClO
reactant | methyl ammonium N-methyldithiocarbamate | 20 g | CNC([S-])=S.C[NH3+]
product | 3-methyl-4-phenyl-5-β-chloroethyl-4-thiazoline-2-thione | CN1C(SC(=C1C1=CC=CC=C1)CCCl)=S | C12H12ClNS2
